US08084484B2
c) Ethyl 2-(4-amino-3-nitrophenyl)propanoate
To the flask of 2-(4-Amino-3-nitrophenyl)propanoic acid residue was added EtOH (200 mL) and catalytic amounts of sulfuric acid (1 mL) at room temperature. The reaction mixture was refluxed for 6 hrs then cooled to room temperature. The mixture was diluted with H2O and extracted with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo.

reactant | 2-(4-Amino-3-nitrophenyl)propanoic acid | NC1=C(C=C(C=C1)C(C(=O)O)C)[N+](=O)[O-] | C9H10N2O4
reactant | EtOH | 200 mL | CCO | C2H6O
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | H2O | O | H2O
product | Ethyl 2-(4-amino-3-nitrophenyl)propanoate | NC1=C(C=C(C=C1)C(C(=O)OCC)C)[N+](=O)[O-] | C11H14N2O4
